US04873262
2-Dipropylamino-8-[2-(3,3-diethylureido)-ethoxy]-1,2,3,4-tetrahydronaphthalene
1.45 g (5 mmol) of 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene and 1.38 g (10 mmol) of potassium carbonate were initially introduced into 20 ml of toluene. 0.77 g (5.5 mmol) of diethylcarbamoyl chloride was then added dropwise, and the mixture was stirred for 2 h at +100° C. The mixture was then filtered and evaporated. The product was obtained by chromatography over silica gel 60, 40-63 μm, using diisopropyl ether/ethanol, 3:2.

reactant | 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene | 5 mmol, 1.45 g | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCN)CCC | C18H30N2O
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylcarbamoyl chloride | 5.5 mmol, 0.77 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | diisopropyl ether ethanol | C(C)(C)OC(C)C.C(C)O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dipropylamino-8-[2-(3,3-diethylureido)-ethoxy]-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCNC(=O)N(CC)CC)CCC | C23H39N3O2
